US07829560B2
N-(4-{[2-(4-Ethylpiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide (Compound B345).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and N-ethylpiperazine according to conditions described in general procedure C. Mp: 185-186° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.98 (t, J=6.9 Hz, 3 H), 2.31 (bs, 6 H), 3.27 (t, J=4.0 Hz, 6 H), 3.50 (bs, 2 H), 3.77 (t, J=4.4 Hz, 4 H), 6.22-6.24 (m, 1 H), 7.04 (d, J=12.0 Hz, 1 H), 7.27 (d, J=8.0 Hz, 1 H), 7.43 (d, J=8.0 Hz, 1 H), 7.50 (s, 1 H), 7.56-7.63 (m, 3 H), 7.84-7.86 (m, 1 H), 8.00 (d, J=8.0 Hz, 1 H), 8.27-8.29 (m, 1 H), 10.48 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
product | N-(4-{[2-(4-Ethylpiperazin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-3-fluoro-5-morpholin-4-ylbenzamide | C(C)N1CCN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C31H33FN6O3
